US07595397B2
4-(2-Bromo-benzyl)-2-phenyl-morpholine
1.877 g of 2-Bromobenzyl bromide and 1 g of 2-Phenyl-morpholine in 15 mL of acetonitrile were stirred at room temperature and 2.076 g of potassium carbonate was added. The reaction was stirred at room temperature overnight. The solution was filtered through Celite and concentrated in vacuo to afford a brown solid. Purification by flash chromatography afforded 1.052 g of product. 63% yield ES MS m/z 332

reactant | 2-Bromobenzyl bromide | 1.877 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | 2-Phenyl-morpholine | 1 g | C1(=CC=CC=C1)C1CNCCO1 | C10H13NO
reactant | potassium carbonate | 2.076 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-(2-Bromo-benzyl)-2-phenyl-morpholine | 1.052 g, 63% yield | BrC1=C(CN2CC(OCC2)C2=CC=CC=C2)C=CC=C1 | C17H18BrNO
